US05994368
To a solution of 8-[N-tert-butoxycarbonyl-N-[2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]amino]benzyl]amino]-2-methylquinoline (32.3 mg) in ethyl acetate (0.5 ml) was added 4N solution of hydrogen chloride in ethyl acetate (0.5 ml) under ice-cooling, and the mixture was stirred for 30 minutes at the same temperature and for 2 hours at ambient temperature. The mixture was concentrated in vacuo to give 8-[2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]amino]benzylamino]-2-methylquinoline dihydrochloride (22.0 mg) as amorphous powder.

reactant | 8-[N-tert-butoxycarbonyl-N-[2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]amino]benzyl]amino]-2-methylquinoline | 32.3 mg | C(C)(C)(C)OC(=O)N(CC1=C(C(=CC=C1Cl)N(C(CNC(C=CC1=CC=C(C=C1)C(NC)=O)=O)=O)C)Cl)C=1C=CC=C2C=CC(=NC12)C | C36H37Cl2N5O5
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 0.5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.5 ml | C(C)(=O)OCC | C4H8O2
product | 8-[2,6-dichloro-3-[N-methyl-N-[4-(methylcarbamoyl)cinnamoylglycyl]amino]benzylamino]-2-methylquinoline dihydrochloride | 22.0 mg | Cl.Cl.ClC1=C(CNC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1N(C(CNC(C=CC1=CC=C(C=C1)C(NC)=O)=O)=O)C)Cl | InChI=1S/C31H29Cl2N5O3.2ClH/c1-19-7-11-21-5-4-6-25(30(21)37-19)35-17-23-24(32)14-15-26(29(23)33)38(3)28(40)18-36-27(39)16-10-20-8-12-22(13-9-20)31(41)34-2;;/h4-16,35H,17-18H2,1-3H3,(H,34,41)(H,36,39);2*1H
